US05239075
E. 8-fluoro-4,10b-dimethyl-1,2,3,4,6,10b-hexahydrobenzo[f]quinolin-3-one
8-fluoro 10b-methyl-1,2,3,4,6,10b-hexahydrobenzo[f]quinolin-3-one (1.38 g; 6mmol) was added to a suspension of NaH (475 mg; 20 mmol) in glyme (15 ml). The mixture was refluxed for 1.5 hours and cooled quickly to room temperature. Methyl iodide (15 ml) was added and the mixture refluxed for 4 hours, then allowed to cool to room temperature. After addition of water, the mixture was concentrated to near dryness. The residue was partitioned between ethyl acetate and water. The organic layer was washed three times with water, dried over MgSO4 and concentrated under vacuum. Recrystallization from hexane afforded 737 mg (56% yield) of the subtitle compound. Melting point 110°-111° C.

reactant | 8-fluoro 10b-methyl-1,2,3,4,6,10b-hexahydrobenzo[f]quinolin-3-one | 6mmol, 1.38 g | FC1=CC2=C(C3(CCC(NC3=CC2)=O)C)C=C1 | C14H14FNO
reactant | NaH | 20 mmol, 475 mg | [H-].[Na+]
reactant | Methyl iodide | 15 ml | CI | CH3I
reactant | water | O | H2O
solvent | glyme | 15 ml | C(OC)COC | C4H10O2
product | 8-fluoro-4,10b-dimethyl-1,2,3,4,6,10b-hexahydrobenzo[f]quinolin-3-one | 737 mg, 56% yield | FC1=CC2=C(C3(CCC(N(C3=CC2)C)=O)C)C=C1 | C15H16FNO
